US08048887B2
4-Fluoro-2-(4-fluorophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide
To a mixture of 4-fluoro-2-(4-fluorophenyl)-5-hydroxybenzofuran-3-carboxylic acid (73 mg, 0.252 mmol), methylamine, HCl (25.5 mg, 0.377 mmol), HOBT hydrate (65.5 mg, 0.428 mmol) and EDC hydrochloride (87 mg, 0.453 mmol) at r.t. under N2 was added N,N-diisopropylethylamine (0.220 mL, 1.258 mmol). The mixture was stirred at r.t. for 16 hours. After concentration, the mixture was added with 5 ml 1N HCl, and then 14 ml H2O. The white solid was filtered and washed with 3×5 ml H2O and dried (64 mg). 1H NMR (500 MHz, CD3OD) δ 7.89 (dd, J=8.09, 5.34, 2H), 7.25 (t overlapping with dd, 2H), 7.23 (dd, 1H), 6.99 (t, J=8.55, 1H), 2.96 (s, 3H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=5 ml/min, Column: PHENOMENEX® Luna, 3.0×50 mm, S10; (ES+) m/z (M+H)+=304.06, HPLC Rt=1.262 min.

reactant | 4-fluoro-2-(4-fluorophenyl)-5-hydroxybenzofuran-3-carboxylic acid | 0.252 mmol, 73 mg | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(=O)O)O | C15H8F2O4
reactant | HOBT hydrate | 0.428 mmol, 65.5 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC hydrochloride | 0.453 mmol, 87 mg | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 1.258 mmol, 0.220 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 4-Fluoro-2-(4-fluorophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)O | C16H11F2NO3
